US07977340B2
Step 5. 1-Benzoyl-3-(3-benzyloxy-5-bromo-phenyl)-thiourea
To a solution of 3-benzyloxy-5-bromo-phenylamine (23.50 g, 84.40 mmol) in acetone (550.0 mL) was added benzoyl isothiocyanate (18.50 mL, 93.13 mmol) and the reaction mixture was stirred at room temperature for 30 min. After the completion of the reaction (TLC monitoring), the solvent was evaporated and the residue thus obtained was washed with hexane to get the desired product (33.0 g, 89%).

reactant | 3-benzyloxy-5-bromo-phenylamine | 84.40 mmol, 23.50 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)Br)N | C13H12BrNO
reactant | benzoyl isothiocyanate | 93.13 mmol, 18.50 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 550.0 mL | CC(=O)C | C3H6O
product | 1-Benzoyl-3-(3-benzyloxy-5-bromo-phenyl)-thiourea | 33.0 g, 89% | C(C1=CC=CC=C1)(=O)NC(=S)NC1=CC(=CC(=C1)Br)OCC1=CC=CC=C1 | C21H17BrN2O2S
